US07211572B2
9-Benzyloxy-2-(3,4-difluorobenzyl)-7-(thiazol-2-yl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione (35 mg) was dissolved in trifluoroacetic acid (1 ml) and the mixture was stirred at room temperature for 3 hr. Trifluoroacetic acid was evaporated under reduced pressure, toluene was added to the obtained residue and the mixture was concentrated, which operations were performed twice. Ethyl acetate was further added and the obtained solid was collected by filtration to give 2-(3,4-difluorobenzyl)-9-hydroxy-7-(thiazol-2-yl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione (14 mg).

reactant | 9-Benzyloxy-2-(3,4-difluorobenzyl)-7-(thiazol-2-yl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione | 35 mg | C(C1=CC=CC=C1)OC=1C(C(=CN2C1C(N(CC2)CC2=CC(=C(C=C2)F)F)=O)C=2SC=CN2)=O | C25H19F2N3O3S
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(3,4-difluorobenzyl)-9-hydroxy-7-(thiazol-2-yl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione | 14 mg | FC=1C=C(CN2C(C=3N(CC2)C=C(C(C3O)=O)C=3SC=CN3)=O)C=CC1F | C18H13F2N3O3S
